US08440700B2
[2-Phenyl-5-(trifluoromethyl)-1,3-oxazol-4-yl]methanol
500 mg (1.94 mmol) of 2-phenyl-5-(trifluoromethyl)-1,3-oxazole-4-carboxylic acid are dissolved in 40 ml of dry THF and cooled to −10° C. 197 mg (1.94 mmol) of 4-methylmorpholine and 211 mg (1.94 mmol) of ethyl chloroformate are added. The reaction solution is stirred at −10° C. for 1 h. 3.9 ml (3.89 mmol) of a 1 M solution of lithium aluminum hydride in THF are then slowly added dropwise. The reaction mixture is stirred overnight and slowly allowed to warm to RT. The mixture is then once more cooled to 0° C., and 0.6 ml of water and 1.2 ml of 1 N aqueous sodium hydroxide solution are added carefully. The mixture is then stirred at RT overnight. After filtration, the solvent is removed on a rotary evaporator. The residue is used without further purification in the subsequent reaction.

reactant | 2-phenyl-5-(trifluoromethyl)-1,3-oxazole-4-carboxylic acid | 1.94 mmol, 500 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 4-methylmorpholine | 1.94 mmol, 197 mg | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 1.94 mmol, 211 mg | ClC(=O)OCC | C3H5ClO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1 N, 1.2 ml | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | 0.6 ml | O | H2O
product | [2-Phenyl-5-(trifluoromethyl)-1,3-oxazol-4-yl]methanol | C1(=CC=CC=C1)C=1OC(=C(N1)CO)C(F)(F)F | C11H8F3NO2
